US05459151
4-(3-cyclopentylmethyl-4-methoxyphenyl)piperidine
Following the procedure of Nacci et al, Vide Supra, reaction of 4-(3-cyclopentylmethyl-4-methoxyphenyl)-2,6-piperidinedione (20.0 mmol, 6.0 g) and lithium aluminum hydride (209 mmol, 7.94 g) in dry THF (130 mL) afforded the title compound as a white, waxy solid (4.85 g, 89%) of sufficient purity for subsequent transformations.

reactant | 4-(3-cyclopentylmethyl-4-methoxyphenyl)-2,6-piperidinedione | 20.0 mmol, 6.0 g | C1(CCCC1)CC=1C=C(C=CC1OC)C1CC(NC(C1)=O)=O | C18H23NO3
reactant | lithium aluminum hydride | 209 mmol, 7.94 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 4-(3-cyclopentylmethyl-4-methoxyphenyl)piperidine | C1(CCCC1)CC=1C=C(C=CC1OC)C1CCNCC1 | C18H27NO
